US04352818
2.31 g (10 mmol) of 8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one and 1.47 g (11 mmol) of N-chlorosuccinimide are heated to 100° for 30 minutes in dimethylformamide. Subsequently, the mixture is poured into water and extracted several times with chloroform. The combined chloroform extracts are washed with water, dried over magnesium sulphate and evaporated. The residue is recrystallized from ethyl acetate and yields 3-chloro-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 217°-218°.

reactant | 8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 2.31 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3)C)=O)C1 | C12H10FN3O
reactant | N-chlorosuccinimide | 11 mmol, 1.47 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-chloro-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C12H9ClFN3O
